US05374646
a) 2-Hydroxy-5-methoxybenzaldehyde
p-Cresol (100 g) in dry THF(100 ml) was added dropwise to a mechanically stirred, freshly prepared solution of ethyl magnesium bromide [magnesium (25.0 g) and bromoethane (75 ml)]in THF (500 ml) under nitrogen at a rate which maintained a slow reflux (about 30 mins). After a further 30 mins toluene (1.21) was added, followed by 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone (125 ml), and paraformaldehyde (70 g). The mixture was then heated at reflux for 16 h. The mixture was concentrated by distillation and aqueous hydrochloric acid (2M, 600 ml) then added. Water (600 ml) was added and the mixture filtered through "hyflo". The organic phase was separated, dried, filtered and concentrated in vacuo to give a brown oil. The oil was steam distilled and the product extracted from the distillate with ether (1 liter). The organic extract was dried, filtered and concentrated in vacuo to give a pale yellow slurry which was cooled to -10° C., triturated with ether (precooled to -78° C., 100 ml), filtered off rapidly and washed with ether (precooled to -78° C.) to give the title compound as colourless needles, (131.4 g).

reactant | p-Cresol | 100 g | C1=CC(=CC=C1O)C | C7H8O
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | magnesium | 25.0 g | [Mg] | Mg
reactant | bromoethane | 75 ml | BrCC | C2H5Br
reactant | paraformaldehyde | 70 g | C=O | CH2O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 500 ml | C1CCOC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone | 125 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxy-5-methoxybenzaldehyde | 131.4 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
